US04650804
A solution of 5-hydroxy-2-[(1-hydroxycyclohexyl)methyl]pyridine (1 g) in acetic acid (15 ml) containing sulfuric acid (5 ml) was heated to reflux for 1 hour. After cooling to room temperature, the reaction mixture was poured on an ice, basified with 10% aqueous sodium hydrogen carbonate, and extracted with ether. The combined ether extracts were washed with aqueous saturated sodium chloride, dried over magnesium sulfate, filtered, and concentrated. The residue was washed with isopropylalcohol to give 2-benzyl-5-hydroxypyridine (409 mg).

reactant | 5-hydroxy-2-[(1-hydroxycyclohexyl)methyl]pyridine | 1 g | OC=1C=CC(=NC1)CC1(CCCCC1)O | C12H17NO2
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-benzyl-5-hydroxypyridine | 409 mg | C(C1=CC=CC=C1)C1=NC=C(C=C1)O | C12H11NO
